US04153446
In a similar manner as in Example 1, bromocyclopropane was reacted with o-nitrophenol to yield 2-cyclopropoxynitrobenzene; which was reduced to the corresponding aniline; reacted with N-methylolpyrrolidone to form the corresponding N-methylenepyrrolidonyl derivative; and acetylated with chloroacetyl chloride to form the desired product.

reactant | bromocyclopropane | BrC1CC1 | C3H5Br
reactant | o-nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
product | 2-cyclopropoxynitrobenzene | C1(CC1)OC1=C(C=CC=C1)[N+](=O)[O-] | C9H9NO3
